US04602012
2-Methoxy-2-methylpropanoic Acid Ethenyl Ester
A mixture of 2-methoxy-2-methylpropanoic acid (5.9 g), vinyl acetate (5 ml), mercuric acetate (172 mg), palladium acetate (27 mg) and potassium hydroxide (225 mg) was stirred under nitrogen at ca 50° for 4 hours. More vinyl acetate (10 ml) was added and the reaction was allowed to proceed for a further 181/2 hours. The mixture was cooled to 2° and N aqueous sodium hydroxide (45 ml) was added. The layers were separated and the aqueous layer was extracted with ether (50 ml). The combined organic layers were washed with saturated brine (20 ml), dried over magnesium sulphate and concentrated on a rotary evaporator to give a yellow liquid (4.44 g) which was distilled under reduced pressure to give the title ethenyl ester (2.52 g); b.p. 43°-45°/ca 20 mm Hg.

reactant | 2-methoxy-2-methylpropanoic acid | 5.9 g | COC(C(=O)O)(C)C | C5H10O3
reactant | potassium hydroxide | 225 mg | [OH-].[K+]
reactant | sodium hydroxide | 45 ml | [OH-].[Na+]
reactant | vinyl acetate | 10 ml | C(C)(=O)OC=C | C4H6O2
reactant | vinyl acetate | 5 ml | C(C)(=O)OC=C | C4H6O2
catalyst | palladium acetate | 27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Methoxy-2-methylpropanoic Acid Ethenyl Ester | 4.44 g | C(=C)OC(C(C)(C)OC)=O | C7H12O3
